US07405300B2
4-[3-Formyl-1-(4-iodophenyl)-1H-indol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester is reacted with 1-(tert-butoxycarbonyl)pyrrole-2-boronic acid as described in Example 66 to afford 4-{1-[4-(tert-butoxylcarbonyl-1H-pyrrol-2-yl)-phenyl]-3-formyl-1H-indol-2-yl}-piperazine-1-carboxylic acid tert-butyl ester as a beige solid (56% yield). ESI/MS 571 (M+1), 515 [M-C(CH3)3]; NMR (CDCl3) 10.28 (1H, s); 8.27 (1H, d, J=6 Hz); 7.59 (2H, d); 7.41 (6H, m); 6.32 (2H, m); 3.36 (8H, m); 1.46 (9H, s); 1.44 (9H, s).

reactant | 4-[3-Formyl-1-(4-iodophenyl)-1H-indol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)I | C24H26IN3O3
reactant | 1-(tert-butoxycarbonyl)pyrrole-2-boronic acid | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
product | 4-{1-[4-(tert-butoxylcarbonyl-1H-pyrrol-2-yl)-phenyl]-3-formyl-1H-indol-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 56% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C=1N(C=CC1)C(=O)OC(C)(C)C | C33H38N4O5
